Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Advil / peanut / tree nut
 
Attending: ___.
 
Chief Complaint:
Nausea/vomiting and fever 
 
Major Surgical or Invasive Procedure:
Liver biopsy (___)

 
History of Present Illness:
This ___ female with no significant past medical history
presents to emergency room today for evaluation of intermittent
fevers, nausea and transaminitis. 

Patient reports that she has had nausea and vomiting, usually
daily and low-grade, for the past few months, which prompted her
PCP to check LFTs. She was first noted to have elevated LFTs in
___. Since then her LFTs have been intermittently checked
and she has had elevated LFTs with AST/ALT in the 100/200s over
the past five months. Bilirubin has been normal. She has had an
extensive workup for the transaminitis including rheumatologic
studies, PBC, monospot, Lyme titers, EBV studies, ESR/CRP, alpha
1-antitrypsin. She denies recent outdoor exposures, pets, sick
contacts, travel, new foods, or use of herbal supplements or
vitamins. 

On evaluation in the emergency room she denies any chest pain or
difficulty breathing states that she felt like she had a
low-grade fever today although this is on documented. She denies
any nausea vomiting recently. No flank pain, no dysuria, no
vaginal discharge.
  
In the ED, initial VS: 99.0 F, HR ___. BP 120/80s, RR 18, 100% 
RA
Exam notable for:  Nontender to palpation of the abdomen
especially in the right upper quadrant. No flank pain. Cardiac
exam and lung exam are normal. 
 
Labs showed:  
 ALT 448 -> 388, AST 244 -> 196, tbili 0.5, lipase 27  
 WBC 7.6, Hgb 11.8  
 Cr 0.6  
 INR 1.3  
 UA with mod leuks, blood, 10 ketones, few bacteria  
 Imaging showed:  
 CHEST X-RAY:  
 No acute cardiopulmonary process. No focal consolidation to
suggest  
 pneumonia.  
 
Patient received: n/a  

On arrival to the floor, patient reports that she feels well at
the time being, and denies current fever, nausea, abdominal 
pain,
diarrhea, blood in the stool, skin changes/rashes, change in
urine. 

 
Past Medical History:
No past medical history
 
Social History:
___
Family History:
Brother with ___ disease, grandfather with pancreatic 
cancer,
otherwise no family history of liver disease, rheumatologic
disease 
 
Physical Exam:
============================
ADMISSION PHYSICAL EXAM:  
============================

VS:  afebrile, BP 120/80s, HR ___, RR 20, 100% RA 
GENERAL: NAD, A/Ox3, no asterixis 
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva,
MMM  
NECK: supple, no LAD, no JVD  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles  
ABDOMEN: nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing, or edema  
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, moving all 4 extremities with purpose  
SKIN: warm and well perfused, no excoriations or lesions, no
rashes

============================
DISCHARGE PHYSICAL EXAM:  
============================
V/S:  T 97.9 BP 102/65 HR 65 RR 18 O2 98% on RA
GENERAL: NAD, A/Ox3.  Sad appearing, minimal smile.
HEENT: Anicteric sclerae.
NECK: No JVD. 
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles  
ABDOMEN: nondistended, tender in RUQ with deep palpation. 
EXTREMITIES: no cyanosis, clubbing, or edema  
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, moving all 4 extremities with purpose.  No 
asterixis.  
SKIN: warm and well perfused, no excoriations or lesions, no
rashes
 
Pertinent Results:
ADMISSION LABS:
___ 09:50PM   GLUCOSE-126* UREA N-16 CREAT-0.6 SODIUM-142 
POTASSIUM-4.1 CHLORIDE-104 TOTAL CO2-26 ANION GAP-12
___ 09:50PM   ALT(SGPT)-365* AST(SGOT)-168* LD(LDH)-161 ALK 
PHOS-48 TOT BILI-0.4
___ 09:50PM   ALBUMIN-4.0 CALCIUM-9.0 PHOSPHATE-3.5 
MAGNESIUM-2.0
___ 09:50PM   HBsAg-NEG HBs Ab-POS HBc Ab-NEG IgM HAV-NEG
___ 09:50PM   CRP-2.7
___ 09:50PM   HIV Ab-NEG
___ 09:50PM   HCV Ab-NEG
___ 09:50PM   WBC-4.9 RBC-3.82* HGB-11.3 HCT-35.3 MCV-92 
MCH-29.6 MCHC-32.0 RDW-14.2 RDWSD-47.8*
___ 09:50PM   PLT COUNT-257
___ 09:50PM   ___ PTT-33.5 ___
___ 09:54PM   ALT(SGPT)-388* AST(SGOT)-196* ALK PHOS-44 TOT 
BILI-0.5
___ 09:54PM   ALBUMIN-3.8
___ 07:41PM   ___ PTT-35.6 ___
___ 05:05PM URINE  HOURS-RANDOM
___ 05:05PM URINE  UCG-NEGATIVE
___ 05:05PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 05:05PM URINE  BLOOD-MOD* NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-10* BILIRUBIN-NEG UROBILNGN-NEG PH-5.5 
LEUK-MOD*
___ 05:05PM URINE  RBC-62* WBC-13* BACTERIA-FEW* YEAST-NONE 
EPI-2
___ 05:05PM URINE  MUCOUS-OCC*
___ 04:39PM   LACTATE-1.0
___ 04:25PM   GLUCOSE-82 UREA N-12 CREAT-0.6 SODIUM-140 
POTASSIUM-4.3 CHLORIDE-101 TOTAL CO2-25 ANION GAP-14
___ 04:25PM   estGFR-Using this
___ 04:25PM   ALT(SGPT)-448* AST(SGOT)-244* ALK PHOS-48 TOT 
BILI-0.5
___ 04:25PM   LIPASE-27
___ 04:25PM   ALBUMIN-4.5
___ 04:25PM   WBC-7.6 RBC-4.08 HGB-11.8 HCT-38.2 MCV-94 
MCH-28.9 MCHC-30.9* RDW-14.2 RDWSD-48.9*
___ 04:25PM   NEUTS-68.8 ___ MONOS-5.3 EOS-0.5* 
BASOS-0.4 IM ___ AbsNeut-5.24 AbsLymp-1.88 AbsMono-0.40 
AbsEos-0.04 AbsBaso-0.03
___ 04:25PM   PLT COUNT-282

PERTINENT IMAGING:
LIVER OR GALLBLADDER U/S (___):
Normal abdominal ultrasound.  Normal appearance of the hepatic 
parenchyma with no sonographic signs of cirrhosis or steatosis. 

PERTINENT MICRO:
Lyme IgG (___):  Negative
Lyme IgM (___):  Pending
EBV IgG and IgM (___):  Pending
CMV IgG and IgM (___):  Pending
RPR (___):  Negative
Monospot (___):  Negative

___ 09:50PM BLOOD HBsAg-NEG HBsAb-POS HBcAb-NEG IgM HAV-NEG
___ 09:50PM BLOOD HIV Ab-NEG
___ 06:00AM BLOOD HEPATITIS E ANTIBODY (IGG)-PND
___ 06:00AM BLOOD HEPATITIS E ANTIBODY (IGM)-PND

___ 5:05 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

PERTINENT PATHOLOGY:
Core liver biopsy (___):  Pending

DISCHARGE LABS:
___ 06:10AM BLOOD WBC-4.7 RBC-4.03 Hgb-11.8 Hct-37.1 MCV-92 
MCH-29.3 MCHC-31.8* RDW-13.8 RDWSD-47.4* Plt ___
___ 07:08AM BLOOD ___ PTT-32.6 ___
___ 06:10AM BLOOD Glucose-91 UreaN-13 Creat-0.6 Na-138 
K-4.3 Cl-99 HCO3-27 AnGap-12
___ 06:10AM BLOOD ALT-373* AST-173* AlkPhos-45 TotBili-0.3
___ 06:10AM BLOOD Calcium-9.1 Phos-4.4 Mg-2.___ year old female with no past medical history presenting with 
subacute transaminitis. 

ACTIVE ISSUES:
# TRANSAMINITIS:  
Pt with no signs of acute or subacute liver failure besides a 
mild coagulopathy (INR max 1.4, 1.3 at discharge).  She did not 
have any asterixis on her exam.  Viral hepatidities (HBV, HCV, 
HAV) were negative; HIV negative; EBV/CMV/lyme titers pending at 
time of discharge.  She has previously had serological testing 
for autoimmune hepatitis, PBC, ___, hemochromatosis, and 
RA.  She has never had a history of STD's, and her most recent 
travel experience is to ___ in ___.  She underwent a 
liver biopsy on ___ with ___, and the pathology was to be 
evaluated the following morning.  Patient was tolerating PO well 
afterwards, and so was discharged home.

# COAGULOPATHY:
Mild, with INR 1.4.  Pt without any gum bleeding, easy bruising, 
easy bleeding prior to arrival.  Likely nutritional given her 
nausea and vomiting previously.  Given 2.5mg PO vitamin K, with 
mild improvement to 1.3 prior to discharge.

# POSITIVE URINALYSIS:
Grossly positive urinalysis, but mixed urogenital flora on 
culture and no symptoms (dysuria, hematuria) of UTI.  She was 
not given antibiotics for same.

TRANSITIONAL ISSUES:
# CODE:  Full (presumed)
# CONTACT:  Husband, ___, ___ 

[ ] PENDING LABS AT DISCHARGE:  Please follow the results of...
- Hepatitis E antibody/antigen
- CMV IgG/IgM
- EBV IgG/IgM
- Lyme IgM

[ ] HEPATOLOGY REFERRAL:
- Final read of liver biopsy (collected ___ pending at time 
of discharge.  Pt referred to hepatology for further management 
after same.
- She should have liver function tests checked at that 
appointment (by ___, with results faxed to her PCP ___ 
___  ___ and the ___ 
(___).

[ ] DEPRESSED MOOD:  
- Pt voiced feelings of depression surrounding her diagnosis and 
long workup.  Please offer her referrals for counseling and 
psychology if available.
- Patient can also find resources on psychologytoday.com.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.Outpatient Lab Work ICD-10 R74: Elevation of transaminases 
Please obtain AST, ALT, alkaline phosphatase, total bilirubin, 
direct bilirubin, ___, PTT on ___. Please fax results to her 
PCP ___, ___ and the ___ 
___ (___).
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES:
Transaminitis
Nausea and vomiting

SECONDARY DIAGNOSIS:
Joint pain
Coagulopathy, mild

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

It was a pleasure caring for you at the ___ 
___.

WHY WAS I SEEN IN THE HOSPITAL?
- You were having worsening nausea and vomiting.
- Your liver function tests were more elevated, so you were sent 
here for evaluation.

WHAT WAS DONE WHILE I WAS IN THE HOSPITAL?
- We checked your liver enzyme tests, which stayed high.
- We got an ultrasound of your liver, which did not show any 
blockages or other problems.
- We got a biopsy of your liver, and will be looking at it with 
our team to see if there is anything unusual to treat.

WHAT SHOULD I DO WHEN I AM OUT OF THE HOSPITAL?
- Please follow up with your specialists as listed below. 
- If you feel confused, notice your skin turning yellow, or have 
shakiness in your hands, please come back immediately to the 
Emergency Department.
- Please ask your primary care doctor about possible talk 
therapy or psychology resources.  You can also visit 
psychologytoday.com to find a resource that works for you.

We wish you the best,
Your ___ Care Team

 
Followup Instructions:
___